US05811424
Synthesis of N1 -[2-(4-cyanophenoxy)-1,1-dimethylethyl]-L-valinamide
Hydrogen chloride gas was introduced into a solution containing 3.7 g of N2 -tert-butoxycarbonyl-N1 -[2-(4-cyanophenoxy)-1,1-dimethylethyl]-L-valinamide dissolved in 50 ml of methylene chloride for 3 hours at room temperature. After the completion of the reaction, the methylene chloride was removed under reduced pressure. A saturated aqueous solution of sodium bicarbonate was added to the residue. The organic layer in the residue was extracted with methylene chloride, washed with water, and then dried over anhydrous magnesium sulfate. The solvent in the organic layer was removed under reduced pressure, thus yielding 2.4 g of the desired product (yield: 87%).

reactant | Hydrogen chloride | Cl | ClH
reactant | N2 tert-butoxycarbonyl-N1 -[2-(4-cyanophenoxy)-1,1-dimethylethyl]-L-valinamide | 3.7 g | N#N.C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)NC(COC1=CC=C(C=C1)C#N)(C)C
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N1 -[2-(4-cyanophenoxy)-1,1-dimethylethyl]-L-valinamide | 2.4 g, yield: 87% | C(#N)C1=CC=C(OCC(C)(C)NC([C@@H](N)C(C)C)=O)C=C1 | C16H23N3O2
